US08003662B2
Step A: Preparation of 2-oxopyrrolidine-3-carboxylic acid:
A flask was charged with methyl 2-oxopyrrolidine-3-carboxylate (500 mg, 3.49 mmol), potassium trimethylsilanolate (1344 mg, 10.48 mmol) and THF (10 mL). The reaction mixture was stirred at room temperature until the starting material had been consumed (overnight). Then HCl (20 mL, 2.0M in Et2O) was added and the mixture was stirred for 30 minutes. Then the mixture was filtered to remove the solid and the solvent was removed under reduced pressure to give the crude product (188.7 mg, 41.84%), which was used for next step without further purification.

reactant | methyl 2-oxopyrrolidine-3-carboxylate | 3.49 mmol, 500 mg | O=C1NCCC1C(=O)OC | C6H9NO3
reactant | potassium trimethylsilanolate | 10.48 mmol, 1344 mg | C[Si]([O-])(C)C.[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-oxopyrrolidine-3-carboxylic acid | 188.7 mg, 41.84% | O=C1NCCC1C(=O)O | C5H7NO3
